US07906645B2
Phenyl [3-chloro-4-(trifluoromethyl)phenyl]carbamate
Phenyl chloroformate (0.86 mL) was added slowly to a stirring solution of 3-chloro-4-trifluoromethyl aniline (933 mg) in THF (10 mL) containing pyridine (1.07 mL) under an argon atmosphere. The reaction was stirred for 18 h then diluted with ethyl acetate (35 mL) and 1M HCl (20 mL). The organic layer was separated and washed with saturated aqueous NaHCO3 then dried (MgSO4), filtered and evaporated. Trituration with 1:9 EtOAc:isohexanes (10 mL) at reflux followed by cooling to RT afforded a solid which was filtered to afford 1.15 g of the title compound.

reactant | Phenyl chloroformate | 0.86 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 3-chloro-4-trifluoromethyl aniline | 933 mg | ClC=1C=C(N)C=CC1C(F)(F)F | C7H5ClF3N
reactant | pyridine | 1.07 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
solvent | HCl | 1M, 20 mL | Cl | ClH
product | Phenyl [3-chloro-4-(trifluoromethyl)phenyl]carbamate | 1.15 g | ClC=1C=C(C=CC1C(F)(F)F)NC(OC1=CC=CC=C1)=O | C14H9ClF3NO2
